### PR TITLE
[Merged by Bors] - chore: use @[to_dual] extensively in CompleteLattice

### PR DESCRIPTION
**Pull request by kim-em**
This PR adds `@[to_dual]` annotations extensively in `CompleteLattice/Defs.lean` and `CompleteLattice/Basic.lean`, auto-generating many dual theorems and deleting the hand-written versions.

- [x] depends on: #35208

🤖 Prepared with Claude Code

### CODE REVIEW

File: Mathlib/Order/Bounds/Basic.lean [hunk 1]
```diff
@@ -829,6 +739,7 @@ theorem IsLUB.exists_between' (h : IsLUB s a) (h' : a ∉ s) (hb : b < a) : ∃
   let ⟨c, hcs, hbc, hca⟩ := h.exists_between hb
   ⟨c, hcs, hbc, hca.lt_of_ne fun hac => h' <| hac ▸ hcs⟩
 
+-- These are not `@[to_dual]` because the `And` conjuncts would be in the wrong order.
```
Comment (vihdzp) [inline Mathlib/Order/Bounds/Basic.lean]: You should use `to_dual none` here.

File: Mathlib/Order/CompleteLattice/Basic.lean [hunk 2]
```diff
@@ -65,11 +63,10 @@ section
 
 variable [CompleteSemilatticeInf α] {s t : Set α} {a b : α}
 
-theorem sInf_le_sInf_of_isCoinitialFor (h : IsCoinitialFor s t) : sInf t ≤ sInf s :=
-  IsGreatest.mono (isGLB_sInf t) (isGLB_sInf s) <| lowerBounds_mono_of_isCoinitialFor h
+-- sInf_le_sInf_of_isCoinitialFor auto-generated by @[to_dual]
```
Comment (vihdzp) [inline Mathlib/Order/CompleteLattice/Basic.lean]: This seems redundant

File: Mathlib/Order/CompleteLattice/Basic.lean [hunk 3]
```diff
@@ -84,103 +81,84 @@ variable [CompleteLattice α] {s t : Set α} {b : α}
...
 @[simp]
 theorem sSup_univ : sSup univ = (⊤ : α) :=
   (@isLUB_univ α _ _).sSup_eq
 
-@[simp]
+@[to_dual existing, simp]
 theorem sInf_univ : sInf univ = (⊥ : α) :=
   (@isGLB_univ α _ _).sInf_eq
 
 -- TODO(Jeremy): get this automatically
```
Comment (vihdzp) [inline Mathlib/Order/CompleteLattice/Basic.lean:88]: is this TODO still relevant?

File: Mathlib/Order/CompleteLattice/Basic.lean [hunk 4]
```diff
@@ -250,155 +241,80 @@ section InfSet
...
-  @Equiv.iSup_congr αᵒᵈ _ _ _ _ _ e h
-
-@[congr]
-theorem iInf_congr_Prop {p q : Prop} {f₁ : p → α} {f₂ : q → α} (pq : p ↔ q)
-    (f : ∀ x, f₁ (pq.mpr x) = f₂ x) : iInf f₁ = iInf f₂ :=
-  @iSup_congr_Prop αᵒᵈ _ p q f₁ f₂ pq f
-
-theorem iInf_plift_up (f : PLift ι → α) : ⨅ i, f (PLift.up i) = ⨅ i, f i :=
-  (PLift.up_surjective.iInf_congr _) fun _ => rfl
+-- sInf_range, sInf_eq_iInf', iInf_congr,
```
Comment (vihdzp) [inline Mathlib/Order/CompleteLattice/Basic.lean]: The comments here also seem superfluous. This whole section should be removed.

File: Mathlib/Order/CompleteLattice/Basic.lean [hunk 5]
```diff
@@ -408,103 +324,80 @@ theorem iInf_const_mono (h : ι' → ι) : ⨅ _ : ι, a ≤ ⨅ _ : ι', a :=
 theorem iSup_iInf_le_iInf_iSup (f : ι → ι' → α) : ⨆ i, ⨅ j, f i j ≤ ⨅ j, ⨆ i, f i j :=
   iSup_le fun i => iInf_mono fun j => le_iSup (fun i => f i j) i
 
+@[to_dual]
 theorem biSup_mono {p q : ι → Prop} (hpq : ∀ i, p i → q i) :
     ⨆ (i) (_ : p i), f i ≤ ⨆ (i) (_ : q i), f i :=
-  iSup_mono fun i => iSup_const_mono (hpq i)
+  iSup₂_mono' fun i hi => ⟨i, hpq i hi, le_rfl⟩
```
Comment (vihdzp) [inline Mathlib/Order/CompleteLattice/Basic.lean]: a) Can't you prove this more directly through the unprimed version?
b) Actually, isn't this theorem a special case of `iSup₂_mono`?

File: Mathlib/Order/CompleteLattice/Basic.lean [hunk 6]
```diff
@@ -408,103 +324,80 @@ theorem iInf_const_mono (h : ι' → ι) : ⨅ _ : ι, a ≤ ⨅ _ : ι', a :=
...
     ⨆ (i) (j), f (s i j) ≤ f (⨆ (i) (j), s i j) :=
   iSup₂_le fun _ _ => hf <| le_iSup₂ _ _
 
+@[to_dual Antitone.map_iSup₂_le]
 theorem Antitone.le_map_iInf₂ [CompleteLattice β] {f : α → β} (hf : Antitone f) (s : ∀ i, κ i → α) :
     ⨆ (i) (j), f (s i j) ≤ f (⨅ (i) (j), s i j) :=
-  hf.dual_left.le_map_iSup₂ _
+  iSup₂_le fun _ _ => hf <| iInf₂_le _ _
 
 theorem Monotone.le_map_sSup [CompleteLattice β] {s : Set α} {f : α → β} (hf : Monotone f) :
```
Comment (vihdzp) [inline Mathlib/Order/CompleteLattice/Basic.lean:335]: Missing tag?

File: Mathlib/Order/CompleteLattice/Basic.lean [hunk 7]
```diff
@@ -513,137 +406,88 @@ theorem Monotone.iInf_comp_eq [Preorder β] {f : β → α} (hf : Monotone f) {s
...
-  hf.dual_left.map_iSup_le
-
-theorem Antitone.map_iSup₂_le [CompleteLattice β] {f : α → β} (hf : Antitone f) (s : ∀ i, κ i → α) :
-    f (⨆ (i) (j), s i j) ≤ ⨅ (i) (j), f (s i j) :=
-  hf.dual.le_map_iInf₂ _
-
-theorem Monotone.map_iInf₂_le [CompleteLattice β] {f : α → β} (hf : Monotone f) (s : ∀ i, κ i → α) :
-    f (⨅ (i) (j), s i j) ≤ ⨅ (i) (j), f (s i j) :=
-  hf.dual.le_map_iSup₂ _
+-- Antitone.map_iSup_le, Monotone.map_iInf_le,
```
Comment (vihdzp) [inline Mathlib/Order/CompleteLattice/Basic.lean]: Superfluous comment

File: Mathlib/Order/CompleteLattice/Basic.lean [hunk 8]
```diff
@@ -738,37 +558,28 @@ begin
...
 
-theorem biInf_inf {p : ι → Prop} {f : ∀ i, p i → α} {a : α} (h : ∃ i, p i) :
-    (⨅ (i) (h : p i), f i h) ⊓ a = ⨅ (i) (h : p i), f i h ⊓ a :=
-  @biSup_sup αᵒᵈ ι _ p f _ h
-
-theorem inf_biInf {p : ι → Prop} {f : ∀ i, p i → α} {a : α} (h : ∃ i, p i) :
-    (a ⊓ ⨅ (i) (h : p i), f i h) = ⨅ (i) (h : p i), a ⊓ f i h :=
-  @sup_biSup αᵒᵈ ι _ p f _ h
-
+-- TODO: @[to_dual] fails here (swaps order relation arguments)
```
Comment (vihdzp) [inline Mathlib/Order/CompleteLattice/Basic.lean]: What about `to_dual (dont_translate := \iota)`?

File: Mathlib/Order/CompleteLattice/Basic.lean [hunk 9]
```diff
@@ -784,25 +595,43 @@ lemma biSup_le_eq_iSup {ι : Type*} [Preorder ι] {f : ι → α} :
   · exact iSup_le fun j ↦ le_iSup_of_le j (le_iSup₂_of_le j le_rfl le_rfl)
 
 lemma biInf_lt_eq_iInf {ι : Type*} [LT ι] [NoMaxOrder ι] {f : ι → α} :
-    ⨅ (i) (j < i), f j = ⨅ i, f i :=
-  biSup_lt_eq_iSup (α := αᵒᵈ)
```
Comment (vihdzp) [inline Mathlib/Order/CompleteLattice/Basic.lean:782]: I think we can keep this proof for the time being. Same below.

File: Mathlib/Order/CompleteLattice/Basic.lean [hunk 10]
```diff
@@ -868,165 +688,123 @@ theorem iSup_or {p q : Prop} {s : p ∨ q → α} :
...
 
-theorem Set.BijOn.iInf_congr {s : Set β} {t : Set γ} (f : β → α) (g : γ → α) {h : β → γ}
-    (h1 : Set.BijOn h s t) (h2 : ∀ x, g (h x) = f x) : ⨅ x ∈ s, f x = ⨅ y ∈ t, g y := by
-  simpa only [h2] using h1.iInf_comp g
-
 section le
 
 variable {ι : Type*} [PartialOrder ι] (f : ι → α) (i : ι)
 
+-- TODO: @[to_dual] fails here (swaps order relation arguments)
```
Comment (vihdzp) [inline Mathlib/Order/CompleteLattice/Basic.lean]: Does the same fix work here?

File: Mathlib/Order/CompleteLattice/Basic.lean [hunk 11]
```diff
@@ -1151,29 +896,24 @@ theorem iSup_ne_bot_subtype (f : ι → α) : ⨆ i : { i // f i ≠ ⊥ }, f i
...
-theorem sInf_image2 {f : β → γ → α} {s : Set β} {t : Set γ} :
-    sInf (image2 f s t) = ⨅ (a ∈ s) (b ∈ t), f a b := by rw [← image_prod, sInf_image, biInf_prod]
-
 end
 
 section CompleteLinearOrder
 
 variable [CompleteLinearOrder α]
 
+-- TODO: @[to_dual] fails here (sSup_eq_top/sInf_eq_bot not registered)
```
Comment (vihdzp) [inline Mathlib/Order/CompleteLattice/Basic.lean]: Is the fix not to just register them?

File: Mathlib/Order/CompleteLattice/Defs.lean [hunk 12]
```diff
@@ -315,21 +316,18 @@ theorem sSup_eq_top : sSup s = ⊤ ↔ ∀ b < ⊤, ∃ a ∈ s, b < a :=
         let ⟨_, ha, h⟩ := h _ h'
         (h.trans_le <| le_sSup ha).false⟩
 
+-- TODO: `to_dual existing` fails here: invalid projection on OrderTop→OrderBot instance chain
```
Comment (vihdzp) [inline Mathlib/Order/CompleteLattice/Defs.lean]: Can you elaborate on the error here? Does it have anything to do with > appearing in the expression?

File: Mathlib/Order/Bounds/Basic.lean [hunk 13]
```diff
@@ -731,15 +731,17 @@ variable [LinearOrder α] {s : Set α} {a b : α}
...
   let ⟨c, hcs, hbc⟩ := (lt_isLUB_iff h).1 hb
   ⟨c, hcs, hbc, h.1 hcs⟩
 
+@[to_dual none]
 theorem IsLUB.exists_between' (h : IsLUB s a) (h' : a ∉ s) (hb : b < a) : ∃ c ∈ s, b < c ∧ c < a :=
   let ⟨c, hcs, hbc, hca⟩ := h.exists_between hb
   ⟨c, hcs, hbc, hca.lt_of_ne fun hac => h' <| hac ▸ hcs⟩
 
--- These are not `@[to_dual]` because the `And` conjuncts would be in the wrong order.
+-- Not `@[to_dual]` because the `And` conjuncts would be in the wrong order.
```
Comment (vihdzp) [inline Mathlib/Order/Bounds/Basic.lean]: Can you use `to_dual none` here?

File: Mathlib/Order/CompleteLattice/Basic.lean [hunk 14]
```diff
@@ -63,7 +63,6 @@ section
 
 variable [CompleteSemilatticeInf α] {s t : Set α} {a b : α}
 
--- We will generalize this to conditionally complete lattices in `csInf_singleton`.
```
Comment (vihdzp) [inline Mathlib/Order/CompleteLattice/Basic.lean:72]: What happened to this comment?

File: Mathlib/Order/CompleteLattice/Basic.lean [hunk 15]
```diff
@@ -103,7 +102,6 @@ theorem sSup_univ : sSup univ = (⊤ : α) :=
 theorem sInf_univ : sInf univ = (⊥ : α) :=
   (@isGLB_univ α _ _).sInf_eq
 
--- TODO(Jeremy): get this automatically
```
Comment (vihdzp) [inline Mathlib/Order/CompleteLattice/Basic.lean:116]: And what happened to this one?

File: Mathlib/Order/CompleteLattice/Defs.lean [hunk 16]
```diff
@@ -316,7 +316,8 @@ theorem sSup_eq_top : sSup s = ⊤ ↔ ∀ b < ⊤, ∃ a ∈ s, b < a :=
         let ⟨_, ha, h⟩ := h _ h'
         (h.trans_le <| le_sSup ha).false⟩
 
--- TODO: `to_dual existing` fails here: invalid projection on OrderTop→OrderBot instance chain
+-- `to_dual existing` fails here: the `>` in the statement causes `to_dual` to try to project
+-- through the `OrderTop → OrderBot` instance chain, producing a type-incorrect term.
 theorem sInf_eq_bot : sInf s = ⊥ ↔ ∀ b > ⊥, ∃ a ∈ s, a < b :=
```
Comment (vihdzp) [inline Mathlib/Order/CompleteLattice/Defs.lean]: Does rewriting the type signature as `sInf s = ⊥ ↔ ∀ b, ⊥ < b → ∃ a ∈ s, a < b` fix this issue?

File: Mathlib/Order/CompleteLattice/Basic.lean [hunk 17]
```diff
@@ -399,16 +391,10 @@ theorem Antitone.map_sSup_le [CompleteLattice β] {s : Set α} {f : α → β} (
...
-theorem Monotone.map_sInf_le [CompleteLattice β] {s : Set α} {f : α → β} (hf : Monotone f) :
-    f (sInf s) ≤ ⨅ a ∈ s, f a := by
-  rw [sInf_eq_iInf]
-  exact hf.map_iInf₂_le _
-
 @[to_dual le_iInf_const]
 theorem iSup_const_le : ⨆ _ : ι, a ≤ a :=
   iSup_le fun _ => le_rfl
 
--- We generalize this to conditionally complete lattices in `ciSup_const` and `ciInf_const`.
```
Comment (vihdzp) [inline Mathlib/Order/CompleteLattice/Basic.lean:541]: And what happened to this comment?

File: Mathlib/Order/Bounds/Basic.lean (hunk 1 above)
Comment (kim-em) [reply Mathlib/Order/Bounds/Basic.lean]: Done.

File: Mathlib/Order/Bounds/Basic.lean (hunk 13 above)
Comment (kim-em) [reply Mathlib/Order/Bounds/Basic.lean]: Done.

File: Mathlib/Order/CompleteLattice/Basic.lean (hunk 14 above)
Comment (kim-em) [reply Mathlib/Order/CompleteLattice/Basic.lean:72]: Restored.

File: Mathlib/Order/CompleteLattice/Basic.lean (hunk 15 above)
Comment (kim-em) [reply Mathlib/Order/CompleteLattice/Basic.lean:116]: Restored.

File: Mathlib/Order/CompleteLattice/Basic.lean (hunk 17 above)
Comment (kim-em) [reply Mathlib/Order/CompleteLattice/Basic.lean:541]: Restored.

File: Mathlib/Order/CompleteLattice/Basic.lean (hunk 9 above)
Comment (kim-em) [reply Mathlib/Order/CompleteLattice/Basic.lean:782]: Agreed, keeping these proofs as-is.

File: Mathlib/Order/CompleteLattice/Basic.lean (hunk 3 above)
Comment (kim-em) [reply Mathlib/Order/CompleteLattice/Basic.lean:88]: It's a pre-existing comment (present on master). I've restored it — whether to address or remove it is a separate question.

File: Mathlib/Order/CompleteLattice/Basic.lean (hunk 5 above)
Comment (kim-em) [reply Mathlib/Order/CompleteLattice/Basic.lean]: b) Yes, master's proof uses `iSup_mono fun i => iSup_const_mono (hpq i)` which goes through `iSup₂_mono`. However, reverting to that proof breaks `@[to_dual]`: the generated `biInf_mono` gets the wrong type (the `iSup_const_mono` → `iInf_const_mono` translation has the wrong direction for infimum). The `iSup₂_mono'` proof translates correctly.

File: Mathlib/Order/CompleteLattice/Basic.lean (hunk 8 above)
Comment (kim-em) [reply Mathlib/Order/CompleteLattice/Basic.lean]: This was addressed in a previous commit — `dont_translate := ι` is now used on `biSup_{lt,le,gt,ge}_eq_iSup`.

File: Mathlib/Order/CompleteLattice/Basic.lean (hunk 10 above)
Comment (kim-em) [reply Mathlib/Order/CompleteLattice/Basic.lean]: No — I tried `@[to_dual (dont_translate := ι)]` here but it doesn't help. The issue is different from `biSup_lt_eq_iSup`: there the problem was `ι` being translated, but here the `≤` and `<` order relations on `ι` itself get swapped even with `dont_translate`. Updated the TODO comment to clarify.

File: Mathlib/Order/CompleteLattice/Basic.lean (hunk 11 above)
Comment (kim-em) [reply Mathlib/Order/CompleteLattice/Basic.lean]: I tried registering `sSup_eq_top` with `@[to_dual none]` and `sInf_eq_bot` with `@[to_dual existing]`, but both fail with an invalid projection error through the `OrderTop`/`OrderBot` instance chain. This is the same `to_dual` limitation that affects `sInf_eq_bot` (comment #12/#16).

File: Mathlib/Order/CompleteLattice/Defs.lean (hunk 12 above)
Comment (kim-em) [reply Mathlib/Order/CompleteLattice/Defs.lean]: The error is an "invalid projection" through the `OrderBot` instance chain. When `to_dual` tries to translate `⊥` (which involves `OrderBot`) to `⊤` (`OrderTop`), it produces a type-incorrect term like `inst✝.toBiheytingAlgebra.toOrderBot.1` — the projection path doesn't exist in the dualized context. The `>` vs `<` isn't the core issue (see #16); even with `⊥ < b` instead of `b > ⊥` the same projection error occurs.

File: Mathlib/Order/CompleteLattice/Defs.lean (hunk 16 above)
Comment (kim-em) [reply Mathlib/Order/CompleteLattice/Defs.lean]: I've rewritten the type to use `⊥ < b →` instead of `b > ⊥`, which is a cleaner statement. However, `@[to_dual existing]` still fails with the same invalid projection error — the issue is with `⊥`/`⊤` translation through instance chains, not with the `>` syntax.

File: Mathlib/Order/CompleteLattice/Basic.lean (hunk 2 above)
Comment (kim-em) [reply Mathlib/Order/CompleteLattice/Basic.lean]: Done.

File: Mathlib/Order/CompleteLattice/Basic.lean (hunk 4 above)
Comment (kim-em) [reply Mathlib/Order/CompleteLattice/Basic.lean]: Done.

File: Mathlib/Order/CompleteLattice/Basic.lean (hunk 6 above)
Comment (kim-em) [reply Mathlib/Order/CompleteLattice/Basic.lean:335]: Done.

File: Mathlib/Order/CompleteLattice/Basic.lean (hunk 7 above)
Comment (kim-em) [reply Mathlib/Order/CompleteLattice/Basic.lean]: Done.

File: Mathlib/Order/CompleteLattice/Basic.lean (hunk 5 above)
Comment (JovanGerb) [reply Mathlib/Order/CompleteLattice/Basic.lean]: I've reverted the proof to its original, as that build now

File: Mathlib/Order/CompleteLattice/Basic.lean (hunk 10 above)
Comment (JovanGerb) [reply Mathlib/Order/CompleteLattice/Basic.lean]: fixed now

File: Mathlib/Order/CompleteLattice/Basic.lean (hunk 11 above)
Comment (JovanGerb) [reply Mathlib/Order/CompleteLattice/Basic.lean]: fixed now

File: Mathlib/Order/CompleteLattice/Defs.lean (hunk 12 above)
Comment (JovanGerb) [reply Mathlib/Order/CompleteLattice/Defs.lean]: fixed now
